US04687857
Under an inert gas, 5.52 g of sodium hydride dispersed at 55% in oil and 173 ml of tetrahydrofuran were mixed together and then a solution of 26.22 g of ethyl 3-(2-thiazolylamino)-3-oxo-propanoate in 690 ml of tetrahydrofuran was added slowly at 20° C. After stirring for 10 minutes, a solution of 34.5 g of 2-(1-chloro-2-methylpropyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one [prepared according to the process described in European Pat. No. 0040573] in 210 ml of tetrahydrofuran was added slowly at 20° C. After stirring at 20° C. for 35 minutes, the mixture was poured into 200 ml of 2N hydrochloric acid and was extracted with ether. The ethereal phase was washed with water, dried and the solvent was evaporated. The residue was triturated in ether and dried to obtain 42.35 g of ethyl 2-[(2-chloro-1-oxo-3-methylbutyl)-amino]-β-oxo-α-[(2-thiazolylamino)-carbonyl]-3-trifluoromethyl-benzene-propanoate melting at 160° C. A second lot of 8.2 g of the said product was obtained afterwards melting at 160° C.

reactant | sodium hydride | 5.52 g | [H-].[Na+]
reactant | ethyl 3-(2-thiazolylamino)-3-oxo-propanoate | 26.22 g | S1C(=NC=C1)NC(CC(=O)OCC)=O | C8H10N2O3S
reactant | 2-(1-chloro-2-methylpropyl)-8-trifluoromethyl-4H-3,1-benzoxazine-4-one | 34.5 g | ClC(C(C)C)C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F | C13H11ClF3NO2
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 690 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 173 ml | O1CCCC1 | C4H8O
product | ethyl 2-[(2-chloro-1-oxo-3-methylbutyl)-amino]-β-oxo-α-[(2-thiazolylamino)-carbonyl]-3-trifluoromethyl-benzene-propanoate | 42.35 g | ClC(C(=O)NC1=C(C=CC=C1C(F)(F)F)C(C(C(=O)OCC)C(=O)NC=1SC=CN1)=O)C(C)C | C21H21ClF3N3O5S
